US04515658
Synthesis of 1-acryloyl-4-methyl piperazine
Acryloyl chloride (90.5 g) in methylene chloride (100 ml) was added into a methylene chloride (500 ml) solution of N-methyl piperazone (100 g) over a period of one hour. The reaction temperature was kept below 25° C. with cooling. After the addition was completed, the reaction mixture was stirred at ambient temperature for two hours. Then, sodium carbonate (53 g) in 250 ml. of water was added into the reaction mixture with stirring. A crude product (76 g) of 1-acryloyl-4-methyl piperazine was recovered from the methylene chloride solution. The product was distilled and the fraction collected at 65°-69° C./1.5 mm Hg was characterized by I.R. and C13 NMR and was found to be 97% pure by G. C.

reactant | Acryloyl chloride | 90.5 g | C(C=C)(=O)Cl | C3H3ClO
reactant | N-methyl piperazone | 100 g | CN1C(CNCC1)=O | C5H10N2O
reactant | sodium carbonate | 53 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | O | H2O
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
product | 1-acryloyl-4-methyl piperazine | C(C=C)(=O)N1CCN(CC1)C | C8H14N2O
